US07402684B2
(S)-Hexahydro-[1,2,3]oxathiazolo[3,4-a]pyridine 1-oxide:
To a solution of (S)-1-Piperidin-2-yl-methanol hydrochloride (3.43 g, 22.63 mmol), imidazole (6.1 g, 88.72 mmol) and triethylamine (7.33 g, 72.42 mmol) in anhydrous dichloromethane (120 mL) at 0-5° C. was added a solution of thionyl chloride (3.2 g, 25.86 mmol) in anhydrous dichloromethane (10 mL) over a period of 45 min. The reaction mixture was stirred at 0-5° C. for 45 min, partitioned with H2O and the aqueous layer was extracted with dichloromethane (2×150 mL). The combined organic layer was washed with H2O, dried over Na2SO4, and concentrated in vacuo to give an orange liquid. Flash column chromatography purification (silica gel, 2% EtOAc in dichloromethane) afforded the title product as a clear, colorless liquid (1.31 g, 36%).

reactant | (S)-1-Piperidin-2-yl-methanol hydrochloride | 22.63 mmol, 3.43 g | Cl.N1[C@@H](CCCC1)CO
reactant | imidazole | 88.72 mmol, 6.1 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 72.42 mmol, 7.33 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 25.86 mmol, 3.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-Hexahydro-[1,2,3]oxathiazolo[3,4-a]pyridine 1-oxide | [S@@]1(OCC2N1CCCC2)=O | C6H11NO2S
